US07176208B2
The quinoxalin-2-one of the present example is prepared with 4-Nitro-benzene-1,2-diamine and (thiophen-2-yl) oxo-acetic acid via the method described in Example 12 to afford 6-Nitro-3-thiophen-2-yl-1H-quinoxalin-2-one.

reactant | 4-Nitro-benzene-1,2-diamine | [N+](=O)([O-])C=1C=C(C(=CC1)N)N | C6H7N3O2
reactant | (thiophen-2-yl) oxo-acetic acid | S1C(=CC=C1)C(C(=O)O)=O | C6H4O3S
product | 6-Nitro-3-thiophen-2-yl-1H-quinoxalin-2-one | [N+](=O)([O-])C=1C=C2N=C(C(NC2=CC1)=O)C=1SC=CC1 | C12H7N3O3S
